US08293909B2
Step 6: Preparation of the title compound, 5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylfuro[2,3-b]pyridine-3-carboxamide.
DIEA (31 μL, 0.18 mmol) was added to a stirring solution of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoic acid (23 mg, 0.059 mmol), 2-methylpropan-2-amine (20 μL, 0.059 mmol), and HATU (27 mg, 0.071 mmol) in DMF (0.6 mL) at room temperature. It was allowed to stir for 2 hours. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the expected product 5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylfuro[2,3-b]pyridine-3-carboxamide (8 mg, 0.017 mmol, 29% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.74 (1H, d, J=2.14 Hz), 8.55-8.61 (1H, m), 8.39 (1H, d, J=2.44 Hz), 8.16 (1H, s), 8.07 (2H, dd, J=8.85, 5.19 Hz), 7.94 (1H, s), 7.92 (1H, d, J=7.63 Hz), 7.86 (1H, d, J=7.93 Hz), 7.59 (1H, t, J=7.63 Hz), 7.43 (2H, t, J=8.85 Hz), 2.87 (3H, d, J=4.58 Hz), 1.42 (9H, s). LC-MS retention time: 1.68 min; m/z (MH+): 446. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% MeOH/95% H2O/10 mM ammonium bicarbonate, Solvent B=95% MeOH/5% H2O/10 mM ammonium bicarbonate, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Phenomenex Gemini C1 C-18, 4.6×150 mm, 3 mm, Rt=13.66 min, purity=98%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 mm, Rt=13.69 min, purity=98%.

reactant | DIEA | 0.18 mmol, 31 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.059 mmol, 23 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)O)C=CC2)O1)C(NC)=O | C22H15FN2O4
reactant | 2-methylpropan-2-amine | 0.059 mmol, 20 μL | CC(C)(C)N | C4H11N
reactant | HATU | 0.071 mmol, 27 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3-(tert-butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylfuro[2,3-b]pyridine-3-carboxamide | 0.017 mmol, 8 mg, 29% yield | C(C)(C)(C)NC(=O)C=1C=C(C=CC1)C=1C=C2C(=NC1)OC(=C2C(=O)NC)C2=CC=C(C=C2)F | C26H24FN3O3
